US04080335
A stirred solution of ethyl(6-methoxy-2-naphthoyl) acetate (36 g, 0.132 mole), resorcinol (14.6 g, 0.132 mole) and phosphoryl chloride (32 ml) in benzene (200 ml) was refluxed for 3 hours. The reaction mixture was allowed to cool, poured into ice/water and filtered to give the crude product as a red solid. Recrystallisation from ethanol gave 7-hydroxy-4(6-methoxy-2-naphthyl)coumarin (28.9 g, 69%) m.p. 223°-225° C.

reactant | ethyl(6-methoxy-2-naphthoyl) acetate | 0.132 mole, 36 g | C(C)(=O)OC(=O)C1=C(C2=CC=C(C=C2C=C1)OC)CC | C16H16O4
reactant | resorcinol | 0.132 mole, 14.6 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | phosphoryl chloride | 32 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 7-hydroxy-4(6-methoxy-2-naphthyl)coumarin | 28.9 g, 69% | OC1=CC=C2C(=CC(OC2=C1)=O)C1=CC2=CC=C(C=C2C=C1)OC | C20H14O4
